US07157464B2
Synthesis of 2-{2-[4-(4-Fluoro-phenyl)-piperazin-1-yl]-2-oxo-ethyl}-4-chloro-5-propyl-2H-pyrazole-3-carboxylic acid ethyl ester
Protocol T was followed using 4-Chloro-5-Propyl-2H-pyrazole-3-carboxylic acid ethyl ester, K2CO3, 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone and DMF. Column chromatography using a solvent mixture (hexane/ethyl acetate=3/7) afforded the title compound as a white solid. 1H NMR (400 MHz, CDCl3): 6.94–7.0 (m, 2H), 6.82–6.90 (dd, 2H), 5.0 (s, 2H), 4.36–4.40 (q, 2H), 3.62–3.82 (m, 4H), 3.04–3.18 (m, 4H), 2.58–2.66(t, 2H), 1.64–1.76 (m, 2H), 1.34–1.38 (t, 3H), 0.94–1.0 (t, 3H). 13C NMR (400 MHz, CDCl3): 165, 160.2, 156.2, 152.4, 147, 133, 118.4, 118.2, 115.8, 115.4, 112.2, 61, 53, 50.6, 50.2, 45, 42, 30, 22.8, 14.4, 14.2.

reactant | 4-Chloro-5-Propyl-2H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1NN=C(C1Cl)CCC | C9H13ClN2O2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone | ClCC(=O)N1CCN(CC1)C1=CC=C(C=C1)F | C12H14ClFN2O
reactant | DMF | CN(C)C=O | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2-{2-[4-(4-Fluoro-phenyl)-piperazin-1-yl]-2-oxo-ethyl}-4-chloro-5-propyl-2H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(N=C(C1Cl)CCC)CC(=O)N1CCN(CC1)C1=CC=C(C=C1)F | C21H26ClFN4O3
